US07368578B2
To a mixture of 3-[{4-[(2-phenyl-5-methyl-1,3-oxazol-4-yl)methoxy]benzyl}oxy]-1-phenyl-1H-pyrazole-4-carbaldehyde (0.50 g), ethyl diethylphosphonoacetate (0.27 g) and N,N-dimethylformamide (20 mL) was added sodium hydride (60% in oil, 0.050 g) under ice-cooling. The mixture was stirred at room temperature for 15 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give ethyl (2E)-3-[3-({4-[(2-phenyl-5-methyl-1,3-oxazol-4-yl)methoxy]benzyl}oxy)-1-phenyl-1H-pyrazol-4-yl]-2-propenoate as colorless crystals (0.51 g, yield 86%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 154-155° C.

reactant | 3-[{4-[(2-phenyl-5-methyl-1,3-oxazol-4-yl)methoxy]benzyl}oxy]-1-phenyl-1H-pyrazole-4-carbaldehyde | 0.50 g | C1(=CC=CC=C1)C=1OC(=C(N1)COC1=CC=C(COC2=NN(C=C2C=O)C2=CC=CC=C2)C=C1)C | C28H23N3O4
reactant | ethyl diethylphosphonoacetate | 0.27 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.050 g | [H-].[Na+]
solvent | Water | O | H2O
product | ethyl (2E)-3-[3-({4-[(2-phenyl-5-methyl-1,3-oxazol-4-yl)methoxy]benzyl}oxy)-1-phenyl-1H-pyrazol-4-yl]-2-propenoate | 0.51 g, yield 86% | C1(=CC=CC=C1)C=1OC(=C(N1)COC1=CC=C(COC2=NN(C=C2/C=C/C(=O)OCC)C2=CC=CC=C2)C=C1)C | C32H29N3O5
